US04818277
A solution of N-[butylaminocarbonyl]-2-[(1-methylethyl)sulfonyl]benzenesulfonamide (17.4 g, 0.048 mol) and 1.4-diaza[2,2,2]bicyclooctane (0.1 g) in mixed xylenes (90 ml) was heated to 135°-140°. Liquid phosgene (3.6 ml, 0.050 mol) was added at a rate to maintain an internal temperature between 125°-135°. When the addition was complete, the solution was refluxed for 2 hours, cooled to room temperature and then filtered under a nitrogen atmosphere. Removal of solvent in vacuo gave 2-[(1-methylethyl)sulfonyl]benzenesulfonyl isocyanate, which was used immediately without further purification.

reactant | N-[butylaminocarbonyl]-2-[(1-methylethyl)sulfonyl]benzenesulfonamide | 0.048 mol, 17.4 g | C(CCC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C(C)C | C14H22N2O5S2
reactant | phosgene | 0.050 mol, 3.6 ml | C(=O)(Cl)Cl | CCl2O
product | 2-[(1-methylethyl)sulfonyl]benzenesulfonyl isocyanate | CC(C)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C10H11NO5S2
